US05151548
170 ml of boron trifluoride/phosphoric acid adduct are added to 1.08 kg (10 moles) of o-cresol in 400 ml of pentane. 680 g (10 moles) of cyclopentene, dissolved in 1 l of pentane, are added dropwise at the reflux temperature in the course of 3 hours. The mixture is stirred for a further hour at the reflux temperature and then poured into ice water. The organic phase is separated off and is extracted with 4 times 600 ml of 10% strength sodium hydroxide solution. The organic phase is dried and evaporated down and the residue is distilled (84°-88° C./0.2 mbar). 515 g of 2-cyclopentyl-6-methylphenol (corresponding to 37% of theory, based on converted cresol) are obtained. 217 g of o-cresol and 282 g of 4-cyclopentyl-2-methylphenol are obtained from the alkaline wash solution after acidification, extraction and distillation.

reactant | boron trifluoride phosphoric acid | 170 ml | B(F)(F)F.P(O)(O)(O)=O
reactant | o-cresol | 10 moles, 1.08 kg | C1(=CC=CC=C1O)C | C7H8O
reactant | cyclopentene | 10 moles, 680 g | C1=CCCC1 | C5H8
solvent | pentane | 400 ml | CCCCC | C5H12
solvent | pentane | 1 l | CCCCC | C5H12
product | 2-cyclopentyl-6-methylphenol | 515 g, 37% | C1(CCCC1)C1=C(C(=CC=C1)C)O | C12H16O
